### PR TITLE
Bump lean & mathlib to 4.9.1 

### PR DESCRIPTION
**Pull request by jkopanski**

### CODE REVIEW

**Comment by Coda-Coda** [comment]
Thanks for this!

File: Clear/Instr.lean [hunk 1]
```diff
@@ -1,6 +1,7 @@
 import Mathlib.Data.Nat.Defs
 import Clear.UInt256
 
+set_option linter.dupNamespace false
```
Comment (Ferinko) [inline Clear/Instr.lean:4]: Would it be time consuming to fix the namespace X { def X.foo } issues?

File: Clear/ExecLemmas.lean [hunk 2]
```diff
@@ -24,13 +24,13 @@ variable {s s' : State}
...
-lemma Continue' : exec fuel .Continue s = 🔁 s := rfl
+lemma Continue' : exec fuel .Continue s = 🔁 s := by unfold exec; rfl
 
 -- | Executing a break is the same as setting the `jump` field to `Break`.
-lemma Break' : exec fuel .Break s = 💔 s := rfl
+lemma Break' : exec fuel .Break s = 💔 s := by unfold exec; rfl
 
 -- | Executing a `Leave` is the same as setting the `jump` field to `Leave`.
-lemma Leave' : exec fuel .Leave s = 🚪 s := rfl
+lemma Leave' : exec fuel .Leave s = 🚪 s := by unfold exec; rfl
```
Comment (Ferinko) [inline Clear/ExecLemmas.lean:33]: Can you try to put these lemmas into a separate section in which you do `unseal exec` and then the proofs should remain `rfl` rather than `unfold exec; rfl`.

File: Clear/Interpreter.lean [hunk 3]
```diff
@@ -103,7 +103,7 @@ mutual
 
       | .PrimCall prim args => evalPrimCall prim (reverse' (evalArgs fuel args.reverse s))
       | .Call f args        => evalCall fuel f (reverse' (evalArgs fuel args.reverse s))
-      | .Var id             => (s, s[id]!)
+      | .Var id             => (s, s[id]!!)
```
Comment (Ferinko) [inline Clear/Interpreter.lean:106]: Oh mylanata, do we still have the `notation s "[" x "]" "!"` stuff? The `!!` looks wrong ^^.

File: Clear/Interpreter.lean [hunk 4]
```diff
@@ -253,12 +253,12 @@ lemma cons : exec fuel (.Block (stmt :: stmts)) s = exec fuel (.Block stmts) (ex
...
   Evaluating a literal gives you back that literal and the state you started in.
 -/
-lemma Lit' : eval fuel (.Lit x) s = (s, x) := rfl
+lemma Lit' : eval fuel (.Lit x) s = (s, x) := by unfold eval; rfl
 
 /--
   Evaluating a variable does a varstore lookup.
 -/
-lemma Var' : eval fuel (.Var var) s = (s, s[var]!) := rfl
+lemma Var' : eval fuel (.Var var) s = (s, s[var]!!) := by unfold eval; rfl
```
Comment (Ferinko) [inline Clear/Interpreter.lean:261]: Maybe unseal within some well placed section.

File: Clear/Interpreter.lean [hunk 5]
```diff
@@ -253,12 +253,12 @@ lemma cons : exec fuel (.Block (stmt :: stmts)) s = exec fuel (.Block stmts) (ex
 /--
   Evaluating a literal gives you back that literal and the state you started in.
 -/
-lemma Lit' : eval fuel (.Lit x) s = (s, x) := rfl
+lemma Lit' : eval fuel (.Lit x) s = (s, x) := by unfold eval; rfl
```
Comment (Ferinko) [inline Clear/Interpreter.lean:256]: Maybe unseal within some well placed section.

File: Clear/Interpreter.lean [hunk 6]
```diff
@@ -238,7 +238,7 @@ variable {s s₀ s₁ : State}
   Traversing an empty list is the identity on states.
 -/
 @[simp]
-lemma nil : exec fuel (.Block []) s = s := rfl
+lemma nil : exec fuel (.Block []) s = s := by unfold exec; rfl
```
Comment (Ferinko) [inline Clear/Interpreter.lean:241]: Maybe unseal within some well placed section.

File: Clear/JumpLemmas.lean [hunk 7]
```diff
@@ -501,9 +501,9 @@ lemma exec_Jump (h : isJump c s) : isJump c (exec fuel stmt s)
     · apply Switch_Jump (stmt := Switch cond cases' default') h (by simp_arith) _ (by aesop)
       rcases cases' <;> [aesop; (aesop (config := { warnOnNonterminal := false}); linarith)]
     · exact If_Jump_ih (stmt := If cond body) h (by simp_arith) (by rcases cond <;> aesop)
-    · exact isJump_setContinue h
-    · exact isJump_setBreak h
-    · exact isJump_setLeave h
+    · unfold exec; exact isJump_setContinue h
+    · unfold exec; exact isJump_setBreak h
+    · unfold exec; exact isJump_setLeave h
```
Comment (Ferinko) [inline Clear/JumpLemmas.lean:506]: Maybe unseal within some well placed section.... same for all the other occurrences.

File: Clear/State.lean [hunk 8]
```diff
@@ -393,13 +391,13 @@ lemma overwrite?_insert : (s.overwrite? (s'.insert var x)) = s.overwrite? s'
 
 -- | Looking up a variable you've just inserted gives you the value you inserted.
 @[simp]
-lemma lookup_insert : (Ok evm store)⟦var ↦ x⟧[var]! = x
+lemma lookup_insert : (Ok evm store)⟦var ↦ x⟧[var]!! = x
```
Comment (Ferinko) [inline Clear/State.lean:394]: Same as the above - what is this an artefact of and can this be fixed?

File: Clear/Interpreter.lean (hunk 3 above)
Comment (jkopanski) [reply Clear/Interpreter.lean:106]: We don't. It was taken over by the `GetElem` typeclass. Wasn't it you who suggested this workaround? :)

File: Clear/Instr.lean (hunk 1 above)
Comment (Coda-Coda) [reply Clear/Instr.lean:4]: Hi, I have proposed a fix in https://github.com/NethermindEth/Clear/pull/5. See:
- [Rename `Instr` type to `GInstr` (for "General Instruction") - To avoid name clash with section `Clear.Instr`](https://github.com/NethermindEth/Clear/commit/abbd304a9ab37e24e9020d26ccce2fa09e64fd78)

File: Clear/ExecLemmas.lean (hunk 2 above)
Comment (Coda-Coda) [reply Clear/ExecLemmas.lean:33]: Hi, I have proposed a fix in https://github.com/NethermindEth/Clear/pull/5.
- [Eliminate need for adding `unfold exec/eval/evalArgs;`](https://github.com/NethermindEth/Clear/commit/e3ea4f655df7c129181b89c5e3bc660831c80d47)

This has been done for all similar suggestions to this.

File: Clear/Interpreter.lean (hunk 3 above)
Comment (Coda-Coda) [reply Clear/Interpreter.lean:106]: https://github.com/NethermindEth/Clear/pull/5 does not address this. I am not sure what the best approach is here.
